US09340556B2
To a solution of 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydro quinoline-3-carbaldehyde (21.3 g, 34.4 mmol) in 1,2-Dichloroethane (DCE) (200 mL) was added pyrrolidine (3.13 mL, 37.8 mmol) and sodium triacetoxyborohydride (10.93 g, 51.6 mmol). The mixture was stirred at r.t. for 3 h. Then reaction mixture was concentrated, partitioned between DCM and brine, and extracted with DCM twice. The combined organic extracts were dried over sodium sulfate and the solvent was removed in vacuo. The crude product was then purified through normal phase chromatography (CombiFlash Rf), eluting with [DCM/MeOH/NH4OH (v:v:v=80:20:2)]:DCM (0% to 60%) to afford 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one (17 g, 30.2 mmol, 88% yield) as a light yellow solid. LCMS: (M+H)+: 563.2.

reactant | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-4-oxo-1,4-dihydro quinoline-3-carbaldehyde | 34.4 mmol, 21.3 g | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)C=O)=O | C28H26ClNO6
reactant | pyrrolidine | 37.8 mmol, 3.13 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 51.6 mmol, 10.93 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,2-Dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | 5-chloro-1-ethyl-6,7-bis((4-methoxybenzyl)oxy)-3-(pyrrolidin-1-ylmethyl)quinolin-4(1H)-one | 30.2 mmol, 17 g, 88% yield | ClC1=C2C(C(=CN(C2=CC(=C1OCC1=CC=C(C=C1)OC)OCC1=CC=C(C=C1)OC)CC)CN1CCCC1)=O | C32H35ClN2O5
